US09108956B2
Step 3. Synthesis of 6-(4-bromophenyl)tetrahydro-2H-pyran-3-ol
To a round bottom flask containing 1-(4-bromophenyl)-5-hydroxypentane-1,4-dione (800 mg, 2.95 mmol) was added DCM (40 ml). The solution was cooled under an ice-bath and a solution of Boron trifluroide (diethyl ether complex, 0.89 ml, 7.00 mmol) was added dropwise. After the addition, triethylsilane (1.11 ml, 6.96 mmol) was also added and the reaction was stirred in an ice-bath for 85 minutes. The mixture was quenched with a saturated of NaHCO3 and was extracted twice with DCM. The combined organic portions was dried over sodium sulfate, filtered and concentrated to afford a crude residue. Column purification afforded the title compound as thick oil (638 mg, 84% conversion). MS (ESI) m/z, non-ionizable. Retention time 1.17 min. (Condition X).

reactant | 1-(4-bromophenyl)-5-hydroxypentane-1,4-dione | 2.95 mmol, 800 mg | BrC1=CC=C(C=C1)C(CCC(CO)=O)=O | C11H11BrO3
reactant | triethylsilane | 6.96 mmol, 1.11 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-bromophenyl)tetrahydro-2H-pyran-3-ol | 638 mg, 84% | BrC1=CC=C(C=C1)C1CCC(CO1)O | C11H13BrO2
